US06759554B2
1-Benzoyl-2-(3,5-dimethylphenyl)hydrazine
An oven-dried resealable Schlenk tube was charged with CuI (2.0 mg, 0.0105 mmol, 1.0 mol %), benzoic hydrazide (170 mg, 1.25 mmol), K2CO3 (290 mg, 2.10 mmol), evacuated and backfilled with argon. trans-1,2-Cyclohexanediamine (13 μL, 0.108 mmol, 11 mol %), dodecane (235 μL), 5-iodo-m-xylene (150 μL, 1.04 mmol) and dioxane (1.0 mL) were added under argon. The Schlenk tube was sealed and the reaction mixture was stirred magnetically at 110° C. for 23 h. The resulting suspension was cooled to room temperature and filtered through a 0.5×1 cm pad of silica gel eluting with 10 mL of ethyl acetate. The filtrate was concentrated and the residue was purified by flash chromatography on silica gel (2×15 cm; hexane-ethyl acetate 2:1; 15 mL fractions). Fractions 9-13 provided 159 mg (64% yield) of the product as a pale tan solid. 1H NMR (300 MHz, CDCl3): δ 8.06 (br s, 1H), 7.87−7.82 (m, 2H), 7.60−7.44 (m, 3H), 6.58 (s, 1H), 6.54 (s, 2H), 6.32 (br s, 1H), 2.25 (s, 6H).

reactant | benzoic hydrazide | 1.25 mmol, 170 mg | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | K2CO3 | 2.10 mmol, 290 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | trans-1,2-Cyclohexanediamine | 0.108 mmol, 13 μL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | dodecane | 235 μL | CCCCCCCCCCCC | C12H26
reactant | 5-iodo-m-xylene | 1.04 mmol, 150 μL | IC=1C=C(C=C(C1)C)C | C8H9I
catalyst | CuI | 0.0105 mmol, 2.0 mg | [Cu]I
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | 1-Benzoyl-2-(3,5-dimethylphenyl)hydrazine | 159 mg, 64% yield | C(C1=CC=CC=C1)(=O)NNC1=CC(=CC(=C1)C)C | C15H16N2O
